US07696223B2
b) 4,5-Dibromo-2-bromomethyl-1-methyl-1H-pyrrole-3-carboxylic acid ethyl ester
Prepared in analogy to that of 4,5-dibromo-2-bromomethyl-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester from 1,2-Dimethyl-1H-pyrrole-3-carboxylic acid ethyl ester; the title product, 1H NMR (200 MHz, CDCl3): δ (ppm)=4.93 (s, 2H), 4.34 (q, 2H, J=7.1 Hz), 3.69 (s, 3H), 1.40 (t, 3H, J=7.1 Hz).

reactant | 4,5-dibromo-2-bromomethyl-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1Br)Br)C1=CC=CC=C1)CBr | C14H12Br3NO2
reactant | 1,2-Dimethyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C=C1)C)C | C9H13NO2
product | 4,5-Dibromo-2-bromomethyl-1-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1Br)Br)C)CBr | C9H10Br3NO2
